US07772285B2
0.92 g of 60% sodium hydride was suspended in 30 mL of tetrahydrofuran, to which 5.0 mL of ethyl diethylphosphonoacetate was added dropwise over 5 minutes at room temperature, and this mixture was stirred for 30 minutes at 40° C. Then, after 3.40 g of 2-isobutoxybenzaldehyde dissolved in 20 mL of tetrahydrofuran was added to the mixture dropwise over 20 minutes at room temperature, this mixture was stirred for one hour at the same temperature. The reaction mixture was added to a mixture of ethyl acetate and water, and the organic phase was separated therefrom. After the resultant organic phase was washed with water and a saturated sodium chloride solution successively, the washed phase was dried over anhydrous magnesium sulfate, and the solvent was distilled out under reduced pressure. The resultant residue was purified by silica gel column chromatography [eluent; hexane:ethyl acetate=9:1] to yield 4.30 g of ethyl (E)-3-(2-isobutoxyphenyl)-2-propenoate as light yellow oil.

reactant | sodium hydride | 0.92 g | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 5.0 mL | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 2-isobutoxybenzaldehyde | 3.40 g | C(C(C)C)OC1=C(C=O)C=CC=C1 | C11H14O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | ethyl (E)-3-(2-isobutoxyphenyl)-2-propenoate | 4.30 g | C(C(C)C)OC1=C(C=CC=C1)/C=C/C(=O)OCC | C15H20O3
